US08314091B2
A: tert-Butyl 4-(4-(3-cyclobutylureido)benzoyl)piperazine-1-carboxylate
A flask was charged with 4-(3-cyclobutylureido)benzoic acid (51.3 mmol, 12.023 g), triethyl-amine (129 mmol, 18 mL, 13.07 g) and dichloromethane (75 mL) and cooled to 0° C. tert-Butyl piperazine-1-carboxylate (51.3 mmol, 9.56 g) was then added and the reagents were stirred together for 10 minutes at 0° C. before 1-propanephosphonic acid cyclic anhydride (64.2 mmol, 38.0 mL, 40.8 g, 50% solution in ethyl acetate) was slowly added. The reaction mixture was allowed to warm slowly to room temperature. After 5 hours stirring, the reaction was poured into a flask containing water (100 mL) and brine (20 ml). The mixture was then stirred and left to stand overnight. The resulting precipitate was collected by vacuum filtration, washed with cold water and dried under vacuum to yield the title compound as a white powder (19.6 g). MS (ESI) m/z 403.5 [M+H]+

reactant | 4-(3-cyclobutylureido)benzoic acid | 51.3 mmol, 12.023 g | C1(CCC1)NC(NC1=CC=C(C(=O)O)C=C1)=O | C12H14N2O3
reactant | triethyl-amine | 129 mmol, 18 mL, 13.07 g | C(C)N(CC)CC | C6H15N
reactant | tert-Butyl piperazine-1-carboxylate | 51.3 mmol, 9.56 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1-propanephosphonic acid cyclic anhydride | 64.2 mmol, 38.0 mL, 40.8 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | brine | 20 ml | [Cl-].[Na+].O
solvent | water | 100 mL | O | H2O
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-(4-(3-cyclobutylureido)benzoyl)piperazine-1-carboxylate | 19.6 g | C1(CCC1)NC(NC1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)=O | C21H30N4O4
